US04507245
Lithium isopropoxide (24.3 g, 0.37 mol.) and isopropyl alcohol (150 ml) were placed in a round-bottomed flask of a 300 ml-capacity, to which was then added dropwise a solution of anhydrous yttrium trichloride (23.4 g, 0.12 mol.) in 25 ml of tetrahydrofuran under stirring. After the addition of the yttrium trichloride, the mixture in the flask was stirred at 45° C. for 3 hours with heating by means of a mantle heater, followed by concentration of the reaction solution to dryness by evaporation of the solvent. The residue obtained was admixed with 150 ml of benzene and the resultant solution was filtered to remove the insoluble matter. Distillation off of the benzene from the filtered solution gave 16.8 g of yttrium isopropoxide as a slightly yellow crystal. Yield 52.6%

reactant | Lithium isopropoxide | 0.37 mol, 24.3 g | CC([O-])C.[Li+]
reactant | isopropyl alcohol | 150 ml | C(C)(C)O | C3H8O
reactant | yttrium trichloride | 0.12 mol, 23.4 g | [Cl-].[Cl-].[Cl-].[Y+3]
reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | yttrium isopropoxide | 16.8 g, Yield 52.6% | CC([O-])C.[Y+3].CC([O-])C.CC([O-])C | InChI=1S/3C3H7O.Y/c3*1-3(2)4;/h3*3H,1-2H3;/q3*-1;+3
